US05512570
A solution of 3.72 g {13.9 mmol) of 4-benzyl-3-(R) -phenyl-2-morpholinone, prepared from (R)-phenyl-glycine as described in Example 14, in 28 mL of CH2Cl2 was cooled in a -78° C. bath under a N2 atmosphere and 14 mL of a 1.5 M solution of DIBAL-H (21 mmol) in toluene were added. After stirring the resulting solution for 0.5 h, it was allowed to warm to -50° C. and maintained at this temperature for 0.5 h. The reaction mixture was quenched by adding 10 mL of aqueous potassium sodium tartarate. The mixture was diluted with CH2Cl2 and the layers were separated. The aqueous layer was extracted 3 times with CH2Cl2. The CH2Cl2 layers were washed with brine, dried over Na2SO4 and filtered. Concentration of the filtrate furnished 3.32 g (88%) of 4-benzyl-2-(S)-hydroxy-3-(R)-phenylmorpholine suitable for use in the next step.

reactant | 4-benzyl-3-(R) -phenyl-2-morpholinone | C(C1=CC=CC=C1)N1[C@@H](C(OCC1)=O)C1=CC=CC=C1 | C17H17NO2
reactant | DIBAL-H | 21 mmol | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 28 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-2-(S)-hydroxy-3-(R)-phenylmorpholine | 3.32 g, 88% | C(C1=CC=CC=C1)N1[C@@H]([C@H](OCC1)O)C1=CC=CC=C1 | C17H19NO2
